US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-5-(5-ethyl-2-thienyl)thiophene-2-sulfonamide was prepared in the same manner as described in Example 2. Reaction of 2-chlorosulfonyl-5-(5-ethyl-2-thienyl)thiophene (200 mg, 0.68 mmol) with 5-amino-4-bromo-3-methyl isoxazole (121 mg, 0.68 mmol) yielded 174 mg N-(4-bromo-3-methyl-5-isoxazolyl)-5-(5-ethyl-2-thienyl)-thiophene-2-sulfonamide (59% yield). After passing through a small plug of silica gel with elution using 10% MeOH/CHCl3, a small fraction of the product was further purified using preparative HPLC to give the sulfonamide as a light tan colored powder, m.p. 126° C.

reactant | 2-chlorosulfonyl-5-(5-ethyl-2-thienyl)thiophene | 0.68 mmol, 200 mg | ClS(=O)(=O)C=1SC(=CC1)C=1SC(=CC1)CC | C10H9ClO2S3
reactant | 5-amino-4-bromo-3-methyl isoxazole | 0.68 mmol, 121 mg | NC1=C(C(=NO1)C)Br | C4H5BrN2O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-5-(5-ethyl-2-thienyl)-thiophene-2-sulfonamide | 174 mg, 59% yield | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=CC1)C=1SC(=CC1)CC)C | C14H13BrN2O3S3
